US06660753B2
A mixture of 3-(5-tert-butoxycarbonylpyrid-2-yl)-5-(3-cyano-5-fluorophenyl)-1,2,4-oxadiazole (69 mg, 0.19 mmol) in formic acid (98%, 3.5 mL) was heated at 40° C. for 17 hours. Evaporation of the solvent in vacuo afforded crude 3-(5-hydroxycarbonylpyrid-2-yl)-5-(3-cyano-5-flourophenyl)-1,2,4-oxadiazole as a white solid.

reactant | 3-(5-tert-butoxycarbonylpyrid-2-yl)-5-(3-cyano-5-fluorophenyl)-1,2,4-oxadiazole | 0.19 mmol, 69 mg | C(C)(C)(C)OC(=O)C=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)F)C#N | C19H15FN4O3
solvent | formic acid | 3.5 mL | C(=O)O | CH2O2
product | 3-(5-hydroxycarbonylpyrid-2-yl)-5-(3-cyano-5-flourophenyl)-1,2,4-oxadiazole | OC(=O)C=1C=CC(=NC1)C1=NOC(=N1)C1=CC(=CC(=C1)F)C#N | C15H7FN4O3
